US08211897B2
To the solution of (S)-tert-butyl 3-cyclobutyl-1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate (4.3 g, 15 mmol) in anhydrous tetrahydrofuran (100 mL) under argon at −78° C., was slowly added lithium aluminum hydride (1M in tetrahydrofuran, 15 mL, 15 mmol). After 2 hours, the reaction mixture was quenched by slowly adding 1N HCl (15 mL) and the reaction mixture was warmed up to room temperature after the addition was complete. The reaction mixture was diluted with ethyl acetate (500 mL), washed with 1N HCl, water, then brine, and dried over magnesium sulfate. Removal of the solvents under reduced pressure gave (S)-tert-butyl 1-cyclobutyl-3-oxopropan-2-ylcarbamate (2.95 g) as an oil.

reactant | (S)-tert-butyl 3-cyclobutyl-1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate | 15 mmol, 4.3 g | C1(CCC1)C[C@@H](C(=O)N(C)OC)NC(OC(C)(C)C)=O | C14H26N2O4
reactant | lithium aluminum hydride | 15 mmol, 1M, 15 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (S)-tert-butyl 1-cyclobutyl-3-oxopropan-2-ylcarbamate | 2.95 g | C1(CCC1)C[C@@H](C=O)NC(OC(C)(C)C)=O | C12H21NO3
